US04598077
To a solution of 1.8 g of methyl 4-{2-[4-(1-phthalimidoethyl)phenyl]ethyl}benzimidate hydrochloride in 30 ml of anhydrous methanol, was added 2.3 ml of a solution of anhydrous ammonia in anhydrous methanol (0.036 g/ml). The mixture was stirred at room temperature for 15 hours. The reaction mixture was stripped of the solvent under reduced pressure. Ether was added to the residue and the precipitated crystals were collected by filtration to yield 1.6 g of 4-{2-[4-(1-phthalimidoethyl)phenyl]ethyl}benzamidine hydrochloride; m.p. 110°-115° C.

reactant | methyl 4-{2-[4-(1-phthalimidoethyl)phenyl]ethyl}benzimidate hydrochloride | 1.8 g | Cl.C1(C=2C(C(N1C(C)C1=CC=C(C=C1)CCC1=CC=C(C(OC)=N)C=C1)=O)=CC=CC2)=O
reactant | ammonia | N | H3N
reactant | Ether | CCOCC | C4H10O
solvent | methanol | 30 ml | CO | CH4O
product | 4-{2-[4-(1-phthalimidoethyl)phenyl]ethyl}benzamidine hydrochloride | 1.6 g | Cl.C1(C=2C(C(N1C(C)C1=CC=C(C=C1)CCC1=CC=C(C(=N)N)C=C1)=O)=CC=CC2)=O | InChI=1S/C25H23N3O2.ClH/c1-16(28-24(29)21-4-2-3-5-22(21)25(28)30)19-12-8-17(9-13-19)6-7-18-10-14-20(15-11-18)23(26)27;/h2-5,8-16H,6-7H2,1H3,(H3,26,27);1H
